US07125901B2
3-(4-(Methylsulfanyl)phenyl)-2-oxopropanoic acid (16.2 g), N,N-dimethylformamide (81 ml) and 1,8-diazabicyclo[5.4.0]undec-7-ene (11.5 ml) were combined at 0° C. under nitrogen atmosphere. The mixture was stirred at the same temperature for an hour, and then iodomethane (9.59 ml) was added to the solution at the same temperature. The reaction mixture was stirred at room temperature for 4 hours, poured into 1N-hydrochloric acid, and extracted with ethyl acetate (twice). The combined organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with chloroform/ethyl acetate (30:1) as an eluent, and triturated with isopropyl ether/n-hexane to give methyl 3-(4-(methylsulfanyl)phenyl)-2-oxopropanoate (8.6 g) as a dark yellow solid.

reactant | 3-(4-(Methylsulfanyl)phenyl)-2-oxopropanoic acid | 16.2 g | CSC1=CC=C(C=C1)CC(C(=O)O)=O | C10H10O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | iodomethane | 9.59 ml | IC | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 81 ml | CN(C=O)C | C3H7NO
product | methyl 3-(4-(methylsulfanyl)phenyl)-2-oxopropanoate | 8.6 g | CSC1=CC=C(C=C1)CC(C(=O)OC)=O | C11H12O3S
